US06696110B1
A 1M solution of boron tribromide in dichloromethane (100 cm3) is added dropwise to a solution of 2,5-bis(4-methoxyphenyl)-1,3,4-thiadiazole [J. prakt. Chem., (1 980) Vol. 322, pp. 933] (2.0 g) and dichloromethane (50 cm3) at 0° C. under an atmosphere of nitrogen. The reaction solution is stirred overnight and water (100 cm3) added. The organic layer is separated off and the aqueous layer extracted with dichloromethane (2×100 cm3). The combined organic layers are washed with brine (2×100 cm3) and then dried (MgSO4), filtered and evaporated down. The residue is purified by column chromatography on silica gel using a 9:1 hexanelethyl acetate mixture as eluent and recrystallisation from ethanol to yield 1.0 g of g 2,5-bis(4-hydroxyphenyl)-1,3,4-thiadiazole.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 2,5-bis(4-methoxyphenyl)-1,3,4-thiadiazole | COC1=CC=C(C=C1)C=1SC(=NN1)C1=CC=C(C=C1)OC | C16H14N2O2S
reactant | water | 100 cm3 | O | H2O
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | 2,5-bis(4-hydroxyphenyl)-1,3,4-thiadiazole | 1.0 g | OC1=CC=C(C=C1)C=1SC(=NN1)C1=CC=C(C=C1)O | C14H10N2O2S
